US04263437
A mixture of 30 mg of (5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetic acid, 3 ml of ethanol and 100 mg of sulfuric acid was refluxed for 1 hour. After the completion of the reaction, the solvent was distilled off to obtain a residue, to which was added ice water, and the mixture was basified with a 5% sodium hydrogen carbonate solution and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation to obtain an oil, which was chromatographed over silica gel and eluted with benzene/chloroform (2/1), thereby yielding 28 mg (yield: 85%) of ethyl (5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetate as an oil.

reactant | (5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetic acid | 30 mg | N1=CC=CC=2CCC3=C(SC21)C=CC(=C3)CC(=O)O | C15H13NO2S
reactant | sulfuric acid | 100 mg | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 3 ml | C(C)O | C2H6O
product | ethyl (5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetate | 28 mg, yield: 85% | N1=CC=CC=2CCC3=C(SC21)C=CC(=C3)CC(=O)OCC | C17H17NO2S
